US09403833B2
Step 1: 2-Allyl-4-(trifluoromethoxy)aniline
To a solution of 2-bromo-4-(trifluoromethoxy)aniline (75 g, 293 mmol) in DMF (1000 ml) was added Pd(PPh3)4 (13.5 g, 11.7 mmol) and allyltributyltin (116 g, 351 mmol) and the reaction mixture was stirred at 80° C. for 16 h. The mixture was cooled to room temperature and saturated aqueous KF solution was added. The mixture was diluted with ethyl acetate (1500 mL) and washed with 1:1 H2O: saturated aqueous NaCl solution (2×750 mL) and saturated aqueous KF (1×). The aqueous layers were combined and extracted with ethyl acetate (250 mL). The organic extracts were combined, dried over MgSO4, filtered and concentrated under reduced pressure to give the crude product, which was absorbed onto silica and purified by chromatography eluting with 1% ethyl acetate in petroleum ether to give the title compound.

reactant | 2-bromo-4-(trifluoromethoxy)aniline | 293 mmol, 75 g | BrC1=C(N)C=CC(=C1)OC(F)(F)F | C7H5BrF3NO
reactant | allyltributyltin | 351 mmol, 116 g | C(C=C)[Sn](CCCC)(CCCC)CCCC
reactant | KF | [F-].[K+]
solvent | DMF | 1000 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 1500 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | 11.7 mmol, 13.5 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Allyl-4-(trifluoromethoxy)aniline | C(C=C)C1=C(N)C=CC(=C1)OC(F)(F)F | C10H10F3NO
